US05364871
A mixture of 2-acetylaminomethyl-5-bromoacetylthiazole (6.30 g) and diaminomethylenethiourea [(H2N)2C=NCSNH2 ] (1.77 g) in acetone (90 ml) was refluxed for 10 hours with stirring. The resulting precipitate was collected by filtration to give 4-(2-acetylaminomethylthiazol-5-yl)-2-(diaminomethyleneamino)thiazole dihydrobromide (2.21 g).

reactant | 2-acetylaminomethyl-5-bromoacetylthiazole | 6.30 g | C(C)(=O)NCC=1SC(=CN1)C(CBr)=O | C8H9BrN2O2S
reactant | diaminomethylenethiourea | 1.77 g | NC(N)=NC(=S)N | C2H6N4S
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | 4-(2-acetylaminomethylthiazol-5-yl)-2-(diaminomethyleneamino)thiazole dihydrobromide | 2.21 g | Br.Br.C(C)(=O)NCC=1SC(=CN1)C=1N=C(SC1)N=C(N)N | InChI=1S/C10H12N6OS2.2BrH/c1-5(17)13-3-8-14-2-7(19-8)6-4-18-10(15-6)16-9(11)12;;/h2,4H,3H2,1H3,(H,13,17)(H4,11,12,15,16);2*1H
